US06207668B1
1.) 5-Chloro-6-ethyl-(1-allyl-2-phenylpyrrolidin-4-ylamino)pyrimidine
1.5 g (8.5 mmol) of 4,5-dichloro-6-ethylpyrimidine, 1.7 g (8.5 mmol) of 1-allyl-4-amino-2-phenylpyrrolidine (prepared from 1-allyl-2-phenylpyrrolidin--4-ol analogously to the route described in Example A) and 2 ml (4 mmol) of triethylamine were heated for 12 hours at 85° C. After cooling, the mixture was diluted with water and extracted with ether, and the organic phase was washed with saturated NaCl solution. After drying and concentrating, the residue was purified by column chromatography using petroleum ether/ethyl acetate (9:1, 8:2). This gave 0.95 g (33% of theory) of a colorless syrup (diastereomers 1:1)

reactant | 4,5-dichloro-6-ethylpyrimidine | 8.5 mmol, 1.5 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | 1-allyl-4-amino-2-phenylpyrrolidine | 8.5 mmol, 1.7 g | C(C=C)N1C(CC(C1)N)C1=CC=CC=C1 | C13H18N2
reactant | 1-allyl-2-phenylpyrrolidin--4-ol | C(C=C)N1C(CC(C1)O)C1=CC=CC=C1 | C13H17NO
reactant | triethylamine | 4 mmol, 2 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-Chloro-6-ethyl-(1-allyl-2-phenylpyrrolidin-4-ylamino)pyrimidine | ClC=1C=NC(=NC1CC)NC1CC(N(C1)CC=C)C1=CC=CC=C1 | C19H23ClN4
